US08809446B2
To a 1-L flask was charged 2,2,4,4-tetramethyl-1,3-cyclobutanedione (140.2 g, 1.0 moles), neopentyl glycol (208.3 g, 2 moles), potassium carbonate (138 g, 1.0 moles) and methylene chloride (500 g). The batch was refluxed for three hours then clarified to remove salts. The methylene chloride was removed with a rotary evaporator. Toluene (250 g) was added to the residue and the organic layer washed six times with 150 mL demineralized water. The organic layer was dried with sodium sulfate and the solvent removed with a rotary evaporator at 75° C./3 mmHg to provide 3-hydroxy-2,2-dimethylpropyl 2,2,4-trimethyl-3-oxopentanoate (244 g, 96.3% GC assay). To a 2-L flask was charged 3-hydroxy-2,2-dimethylpropyl 2,2,4-trimethyl-3-oxopentanoate (97.6 g, 0.4 moles), methylene chloride (600 g), DMAP (0.04 g) and triethylamine (50.4 g, 0.504 moles) and the resulting mixture cooled to 0-5° C. Added dropwise over an hour was methacryloyl chloride (50 g, 0.48 moles). After the addition was complete, the reaction was held at <10° C. for 30 minutes then heated to reflux and held for six hours. GC analysis indicated starting material remained so additional methacryloyl chloride (6 g) and triethylamine (6 g) were added. After one hour at reflux, the reaction was cooled and 600 mL demineralized water added. Lower product layer decanted and upper water layer discarded. Water wash was repeated four times. Organic layer dried with sodium sulfate and then removed with a rotary evaporator to provide 123 g crude product (93.7% GC assay). Material distilled in a Kugelrohr apparatus to provide the desired product in 96% GC assay and 94.9% NMR assay.

reactant | 2,2,4,4-tetramethyl-1,3-cyclobutanedione | 1.0 moles, 140.2 g | CC1(C(C(C1=O)(C)C)=O)C | C8H12O2
reactant | neopentyl glycol | 2 moles, 208.3 g | OCC(C)(CO)C | C5H12O2
reactant | potassium carbonate | 1.0 moles, 138 g | C([O-])([O-])=O.[K+].[K+]
solvent | methylene chloride | 500 g | C(Cl)Cl | CH2Cl2
product | 3-hydroxy-2,2-dimethylpropyl 2,2,4-trimethyl-3-oxopentanoate | 244 g, 96.3% | CC(C(=O)OCC(CO)(C)C)(C(C(C)C)=O)C | C13H24O4
